US06316472B1
[3,4-Bis(difluoromethoxy)phenyl]-(6-bromo-3-pyridyl)chloromethane
To a solution [3,4-Bis(difluoromethoxy)phenyl]-(6-bromo-3-pyridyl)methanol (15.8 g, 40.0 mmol) in 400 mL of CH2Cl2, was added 3.8 mL (52.0 mmol) of SOCl2. The solution was stirred 45 minutes at room temperature and poured into a saturated aqueous solution of NaHCO3. The aqueous layer was extracted with CH2Cl2 and the combined organic layers were dry over MgSO4 and concentrated under reduced pressure. The crude chloride was used directly for the next step without any purification.

reactant | [3,4-Bis(difluoromethoxy)phenyl]-(6-bromo-3-pyridyl)methanol | 40.0 mmol, 15.8 g | FC(OC=1C=C(C=CC1OC(F)F)C(O)C=1C=NC(=CC1)Br)F | C14H10BrF4NO3
reactant | SOCl2 | 52.0 mmol, 3.8 mL | O=S(Cl)Cl | Cl2OS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | [3,4-Bis(difluoromethoxy)phenyl]-(6-bromo-3-pyridyl)chloromethane | FC(OC=1C=C(C=CC1OC(F)F)C(Cl)C=1C=NC(=CC1)Br)F | C14H9BrClF4NO2
